* C:\Users\Surya\Documents\projects\electronics\huwaei\model.asc
Vb Vbat 0 10
C1 N002 N001 1µ
C2 N001 Vbat 1µ
R0 Vload N002 10
R1 N002 N001 10
R2 N001 Vbat 10
I§Vl Vload 0 PULSE(0 100m 10u 10u 10u 100u 200u)
.tran 0 1m 0 1u
.backanno
.end
